US04477447
Sodium iodide (3.5 g) was slowly added to a stirred solution of 4-nitrobenzyl bromoacetate (5.0 g) in acetone (50 ml) at room temperature over 5 minutes, and the solution was stirred at the same temperature for 2.25 hours. The resultant mixture was evaporated in vacuo, and the residue was dissolved in a mixture of ethyl acetate (40 ml) and water (15 ml). The organic layer was separated, washed with a saturated aqueous solution of sodium chloride and an aqueous solution of sodium thiosulfate in turn, and then dried over anhydrous magnesium sulfate. After the solution was evaporated in vacuo, the residue was allowed to stand in a refrigerator overnight, and triturated with methanol (10 ml) to give crystals (5.25 g) of 4-nitrobenzyl iodoacetate, mp 62.5° to 63.5° C.

reactant | Sodium iodide | 3.5 g | [I-].[Na+]
reactant | 4-nitrobenzyl bromoacetate | 5.0 g | BrCC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C9H8BrNO4
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 4-nitrobenzyl iodoacetate | 5.25 g | ICC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C9H8INO4
